US08119667B2
(1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-(4-(methylsulfonyl)phenyl)propyl ethyl carbonate
A solution of florfenicol (250 g, 0.7 mol), 4-dimethylaminopyridine (42 g, 0.35 mol,), triethylamine (130 mL, 0.91 mol) in 1.2 L of tetrahydrofuran was stirred at 0-5° C. while neat ethyl chloroformate (80 mL, 0.83 mol) was added drop-wise with an addition funnel. The reaction proceeded as indicated by the precipitation of triethylamine hydrochloride salt. The mixture was allowed to stir at room temperature for 30 minutes and the salt was removed from the mixture by filtration. The filtrate was concentrated and 600 mL of ethyl acetate was added and the solution was washed with 1 M HCl (2×200 mL) followed by saturated NaCl (200 mL) and filtered through a layer of Na2SO4/silica gel. The filtrate was concentrated and the crude oil was crystallized from 450 mL of isopropanol to give the pure title product (286 g). m.p. 110-112° C.; H1-NMR (DMSO-d6), δ=1.2 ppm (t, 3 H), 3.2 ppm (s, 3H), 4.1 ppm (q, 2H), 4.3-4.7 ppm (m, 3H), 5.9 ppm (d, 1H), 6.4 ppm (s, 1H), 7.6 ppm (d, 2H), 7.9 ppm (d, 2H), 9.2 ppm (d, 1H); mass spectrum 452.0 (M+Na).

reactant | florfenicol | 0.7 mol, 250 g | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O | C12H14Cl2FNO4S
reactant | triethylamine | 0.91 mol, 130 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.83 mol, 80 mL | ClC(=O)OCC | C3H5ClO2
catalyst | 4-dimethylaminopyridine | 0.35 mol, 42 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 1.2 L | O1CCCC1 | C4H8O
product | (1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-(4-(methylsulfonyl)phenyl)propyl ethyl carbonate | 286 g | C(O[C@@H]([C@@H](CF)NC(C(Cl)Cl)=O)C1=CC=C(C=C1)S(=O)(=O)C)(OCC)=O | C15H18Cl2FNO6S
